datasets/10k__Tet_Int.csv
SMILES Labelled
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)[H])[O-:10])[H]>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)[H])[H] 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[O][CH](C)C([H])[CH](CC)[S]1 10=20;20,21=21"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)CCCCCC)CC>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)CC.[O-:21]CCCCCC 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(CC)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C([H])[CH](CC)[O]1 10=20;20,21=21"
"CCC1C(O[C:20](=[O:10])N1C)[H].[O-:21]CC>>CCC1C(O[C:20](N1C)([O-:10])[O:21]CC)[H] 21=20;20,10=10"
"[H][NH:10]C(C)C(C)C([H])[O][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C([H])[O]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"[O:10]([K])C(CC)/C([H])=C([C:20](C)=[O:21])/C>>[O-:21][C:20]1(C)[O+:10]([K])C(CC)C([H])=C1C 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH]C(CC)C(C)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[NH]C(CC)C(C)[NH]1 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])C)[H]>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])C)[O-:10])[H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C(C)[CH](C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[S]2.C[S:10][H] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)[H])CC>>[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)[H])[O-:10])CC 21=20;20,10=10"
"[H][S:10]C([H])C(C)[O][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)[O]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])[H])CC>>CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])CC.[O-:21][H] 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21][H])[O]C(C7=CC=CC=C7)C([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[S]2.C[O:10][H] 21=20;20,10=10"
"C[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[S]C7=CC=CC=C7 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)CCCCCC)[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)CCCCCC)CC 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CCCCCC)[H])CCCCCC.[O-:21]C>>C1=CC=CC=C1C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)[H])CCCCCC 21=20;20,10=10"
"[O:20]=[C:21](OC)OC1=CC=CC=C1.CC[O:10][Li]>>CC[O+:10]([Li])[C:21]([O-:20])(OC)OC1=CC=CC=C1 10=21;21,20=20"
"[H][O+:10]([H])[C:20]1([NH:21]C)[NH]C(C)C([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C)C([H])[NH]2.[H][O:10][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(CC)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[K][O:21][H].[C:20](=[O:10])(OCC)OCC>>[K][O+:21]([C:20]([O-:10])(OCC)OCC)[H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C([H])[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C([H])[O]1 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)C)C1=CC=CC=C1)[O-:10])C1=CC=CC=C1>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21"
"[H][S+:10](C(C)C(C)C([H])[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C([H])[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]CC)[O]C.[Cl-]>>[Cl-].C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]CC)[O]C 21=20;20,10=10"
"[OH:10]C(C1=C(C([CH:20]([H])=[OH+:21])[H])C=CC=C1)[H]>>[OH:21][CH:20]2([H])C(C3=C(C([OH+:10]2)[H])C=CC=C3)[H] 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)CC)[O-:10])C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)CC)C1=CC=CC=C1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C(C)[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](CC)[CH](C)C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)C.[O-:21][H]>>C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21][H])C1=CC=CC=C1)C 21=20;20,10=10"
